US07297694B2
Step 5. 4(3-Bromofuran-2-yl)pyridine
A solution of tributylstannylpyridine (8.0 g, 21.7 mmol) and 2,3-dibromofuran (5.9 g, 26.1 mmol) in dry toluene (200 ml) was treated with bis(triphenylphosphine)palladium (II) chloride (1.5 g, 2.2 mmol) and heated at 100° C. overnight. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate, washed with water, dried (MgSO4) and evaporated in vacuo. The residue was chromatographed on silica gel eluting with ethyl acetate to afford the title compound (1.2 g, 25%); 1H NMR (CDCl3) 8.66 (2H, d, J 11 Hz), 7.84 (2H, d, J 11 Hz), 7.50 (1H, d, J 3 Hz), 6.60 (1H, d, J 3 Hz).

reactant | tributylstannylpyridine | 21.7 mmol, 8.0 g | C(CCC)[Sn](CCCC)(CCCC)C1=NC=CC=C1
reactant | 2,3-dibromofuran | 26.1 mmol, 5.9 g | BrC=1OC=CC1Br | C4H2Br2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium (II) chloride | 2.2 mmol, 1.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4(3-Bromofuran-2-yl)pyridine | 1.2 g, 25% | BrC1=C(OC=C1)C1=CC=NC=C1 | C9H6BrNO
